US05397785
Synthesis of N-[(1,2,3,4-tetrahydroacridin-9-yl)aminocarbonylmethyl]-L-alanine ethyl ester
To 5 g of 9-chloroacetylamino-1,2,3,4-tetrahydroacridine, was added 22 g of L-alanine ethyl ester and the reaction was continued for 30 minutes at 100° C. After cooled to room temperature, the reaction mixture was added with 100 ml of chloroform and 100 ml of water and stirred. The chloroform layer was dried over anhydrous sodium sulfate and purified by silica gel column chromatography (chloroformmethanol), followed by recrystallization from chloroform-n-hexane to obtain 5.9 g of the titled compound having the melting point of 101° to 102° C.

reactant | 9-chloroacetylamino-1,2,3,4-tetrahydroacridine | 5 g | ClCC(=O)NC=1C2=CC=CC=C2N=C2CCCCC12 | C15H15ClN2O
reactant | L-alanine ethyl ester | 22 g | C(C)OC([C@@H](N)C)=O | C5H11NO2
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 ml | O | H2O
product | N-[(1,2,3,4-tetrahydroacridin-9-yl)aminocarbonylmethyl]-L-alanine ethyl ester | 5.9 g | C(C)OC([C@@H](NCC(=O)NC=1C2=CC=CC=C2N=C2CCCCC12)C)=O | C20H25N3O3
